US07932399B2
3-(5,6-Dichloro-1H-benzoimidazol-2-yl)-4,4,4-trifluoro-3-hydroxy-butyronitrile (#7)
To a solution of dry acetonitrile (0.4 mL) in THF (10 mL) at −78° C. was added n-BuLi (2.9 mL of 2.5 M in hexanes). The resulting mixture was stirred for 45 min. at −78° C. To the solution was then added a solution of 1-(5,6-dichloro-1H-benzoimidazol-2-yl)-2,2,2-trifluoro-ethanone (930 mg) in THF (5 mL). The resulting mixture was stirred at −78° C. for 1 hr. The reaction was quenched with NH4Cl (aq) and the resulting mixture extracted with EtOAc. The combined extracts were washed with brine and dried over Na2SO4. The resulting crude material was purified by column chromatography (SiO2; 0-15% ethyl acetate/hexanes) to yield the title compound as a yellow solid.

reactant | acetonitrile | 0.4 mL | C(C)#N | C2H3N
reactant | n-BuLi | 2.5 M, 2.9 mL | [Li]CCCC
reactant | 1-(5,6-dichloro-1H-benzoimidazol-2-yl)-2,2,2-trifluoro-ethanone | 930 mg | ClC1=CC2=C(NC(=N2)C(C(F)(F)F)=O)C=C1Cl | C9H3Cl2F3N2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(5,6-Dichloro-1H-benzoimidazol-2-yl)-4,4,4-trifluoro-3-hydroxy-butyronitrile | ClC1=CC2=C(NC(=N2)C(CC#N)(C(F)(F)F)O)C=C1Cl | C11H6Cl2F3N3O
